US04963566
To a solution of 8-(t-butyldimethylsilyloxymethyl)-4-methoxy-3,3-dimethyl-1-ethyl-1,2,3,4-tetrahydroquinoline (1.40 g) in tetrahydrofuran (20 ml), 1M solution (4.2 ml) of tetrabutylammonium fluoride in tetrahydrofuran was added dropwise under ice-cooling. After the mixture was stirred for 45 minutes, tetrahydrofuran was distilled off and the residue was extracted with dichloromethane. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off. The resulting residue was purified by silica gel column chromatography [eluent:n-hexane-ethyl acetate (6:1)] to give 8-hydroxymethyl-4-methoxy-3,3-dimethyl-1-ethyl-1,2,3,4-tetrahydroquinoline (0.75 g).

reactant | 8-(t-butyldimethylsilyloxymethyl)-4-methoxy-3,3-dimethyl-1-ethyl-1,2,3,4-tetrahydroquinoline | 1.40 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC=C2C(C(CN(C12)CC)(C)C)OC | C21H37NO2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 8-hydroxymethyl-4-methoxy-3,3-dimethyl-1-ethyl-1,2,3,4-tetrahydroquinoline | 0.75 g | OCC=1C=CC=C2C(C(CN(C12)CC)(C)C)OC | C15H23NO2
